US05891909
c) 3-[5-Methyl-3-(3-methylphenylsulfonyloxy)phenoxy]propionaldehyde
Sulfur trioxide pyridine complex (720 mg, 4.5 mmol) was added to a solution of 3-[5-methyl-3-(3-methylphenylsulfonyloxy)phenoxy]propanol (505 mg, 1.5 mmol), as prepared in the preceding step, N,N-diisopropylethylamine (0.6 mL, 4.7 mmol) and anhydrous dimethyl sulfoxide (0.3 mL, 4.2 mmol) in anhydrous dichloromethane (15 mL). The reaction mixture was stirred at ambient temperature for 1 hour and then quenched with 10% aqueous citric acid (50 mL). The mixture was extracted into dichloromethane (3×50 mL), and the dichloromethane solution was washed with 10% aqueous citric acid (40 mL) and dried over Na2SO4. After removing the solvent in vacuo, the residue was purified by flash column chromatography (dichloromethane) to give the title compound as a colorless oil (450 mg, 89%). 1H-NMR (300 MHz, CDCl3) δ 9.83 (s, 1H), 7.69 (s, 1H), 7.65 (d, J=7.6 Hz, 1H), 7.46 (t, J=7.7 Hz, 1H), 7.41 (t, J=7.6 Hz, 1H), 6.61 (s, 1H), 6.44 (s, 1H), 6.35 (s, 1H), 4.18 (t, J=6.0 Hz, 2H), 2.85 (t, J=6.1 Hz, 2H), 2.43 (s, 3H), 2.24 (s, 3H).

reactant | 3-[5-methyl-3-(3-methylphenylsulfonyloxy)phenoxy]propanol | 1.5 mmol, 505 mg | CC=1C=C(C=C(OCCCO)C1)OS(=O)(=O)C1=CC(=CC=C1)C | C17H20O5S
reactant | N,N-diisopropylethylamine | 4.7 mmol, 0.6 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | dimethyl sulfoxide | 4.2 mmol, 0.3 mL | CS(=O)C | C2H6OS
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 3-[5-Methyl-3-(3-methylphenylsulfonyloxy)phenoxy]propionaldehyde | 450 mg, 89% | CC=1C=C(C=C(OCCC=O)C1)OS(=O)(=O)C1=CC(=CC=C1)C | C17H18O5S
